US06756382B2
Using the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.51 g, 2.0 mmol) was reacted with 4-benzoylbenzoyl chloride (2.0 mmol) to provide 0.15 g of N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin1-yl)butyl]-4-benzoylbenzamide as a white solid, m.p. 159-161° C. 1H NMR (500 MHz, CDCl3) δ8.06 (s, 1H), 7.96 (d, J=8.0 Hz, 1H), 7.91 (d, J=8.0 Hz, 1H), 7.85 (d, J=8.0 Hz, 2H), 7.81 (d, J=8.0 Hz, 2H), 7.76 (d, J=8.0 Hz, 2H), 7.60 (m, 2H), 7.49 (t, J=8.0 Hz, 2H), 7.48 (t, J=8.0 Hz, 1H), 7.24 (broad s, 1H), 6.86 (broad s, 1H), 6.60 (t, J=6 Hz, 1H), 4.69 (t, J=7.0 Hz, 2H), 3.62 (q, J=6.0 Hz, 2H), 2.14 (quintet, J=7.0 Hz, 2H), 1.82 (quintet, J=7.0 Hz, 2H); MS (EI) m/e 463.2002 (463.2008 calcd for C28H25N5O2).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | 2.0 mmol, 0.51 g | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 4-benzoylbenzoyl chloride | 2.0 mmol | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)Cl)C=C1 | C14H9ClO2
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin1-yl)butyl]-4-benzoylbenzamide | 0.15 g | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O | C28H25N5O2
